US09193693B2
Step 1. Methyl 3-(3,3-dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.47 mmol, 1.00 equiv), 3,3-dimethylpiperidine (107 mg, 0.95 mmol, 2.00 equiv), DMSO (2 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The resulting solution was diluted with 20 mL of H2O. The resulting solids were collected by filtration. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:40). This resulted in 120 mg (64%) of methyl 3-(3,3-dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.47 mmol, 150 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 3,3-dimethylpiperidine | 0.95 mmol, 107 mg, 2.00 equiv | CC1(CNCCC1)C | C7H15N
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | H2O | 20 mL | O | H2O
product | Methyl 3-(3,3-dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | CC1(CN(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C23H24FN3O2
